US04283341
To a solution of 3-methyl-1-tribromomethyl-2-butenyl acetoacetate (8.32 g, 0.0198 mole) and tosyl azide (3.9 g, 0.0198 mole) in 40 ml of acetonitrile was added dropwise over a period of 35 minutes a solution of triethylamine (2.0 g, 0.020 mole) in 10 ml of acetonitrile. The resulting mixture was stirred at room temperature for 21/2 hours to give 3-methyl-1-tribromomethyl-2-butenyl diazoacetoacetate. Then 60 ml of 1N aqueous sodium hydroxide was added thereto, and the mixture was stirred at room temperature for 45 minutes. The reaction mixture was then diluted with ether, the organic phase was separated, the aqueous phase was extracted with ether, and the organic phases were combined. The ethereal solution was washed with three successive portions of 3% aqueous potassium hydroxide containing sodium chloride, then three times with saturated aqueous sodium chloride. The washed ethereal solution was dried over magnesium sulfate and treated with active charcoal. Evaporation of the ether afforded an oily residue. 3-Methyl-1-tribromomethyl-2-butenyl diazoacetate (5.78 g, 71% yield) was isolated therefrom by column chromatography.

reactant | 3-methyl-1-tribromomethyl-2-butenyl acetoacetate | 0.0198 mole, 8.32 g | C(CC(=O)C)(=O)OC(C=C(C)C)C(Br)(Br)Br | C10H13Br3O3
reactant | tosyl azide | 0.0198 mole, 3.9 g | S(=O)(=O)(C1=CC=C(C)C=C1)N=[N+]=[N-] | C7H7N3O2S
reactant | triethylamine | 0.020 mole, 2.0 g | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 40 ml | C(C)#N | C2H3N
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | 3-methyl-1-tribromomethyl-2-butenyl diazoacetoacetate | [N+](=[N-])=CC(CC(=O)OC(C=C(C)C)C(Br)(Br)Br)=O | C10H11Br3N2O3
